US07262185B2
To a solution of N-methyl-N-(4-nitrobenzyl)trifluoroacetoamide (11.82 g) in methanol (200 ml) was added 1N aqueous solution of sodium hydroxide (50 ml) at room temperature. The mixture was stirred at room temperature for 24 hours, and concentrated under reduced pressure. The mixture was extracted with ethyl acetate and dried over magnesium sulfate. The mixture was concentrated under reduced pressure, to give methyl(4-nitrobenzyl)amine (6.78 g).

reactant | N-methyl-N-(4-nitrobenzyl)trifluoroacetoamide | 11.82 g | CN(C(C(F)(F)F)=O)CC1=CC=C(C=C1)[N+](=O)[O-] | C10H9F3N2O3
reactant | sodium hydroxide | 50 ml | [OH-].[Na+]
solvent | methanol | 200 ml | CO | CH4O
product | methyl(4-nitrobenzyl)amine | 6.78 g | CNCC1=CC=C(C=C1)[N+](=O)[O-] | C8H10N2O2
